Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nonhealing ulcers to the left toes
 
Major Surgical or Invasive Procedure:
1. Left below-knee popliteal to posterior tibial bypass
    with non-reverse saphenous vein graft.
2. Angioscopy vein inspection valve lysis.

 
History of Present Illness:
This is a ___ gentleman with a history of diabetes, 
end-stage renal disease, on dialysis and ischemic cardiomyopathy 
with an EF of 10% to
15%.  He has a longstanding history of peripheral vascular 
disease.  He previously underwent a right-sided popliteal DP 
bypass which subsequently failed and resulted in a right 
below-knee amputation.  He recently presented for wound 
complications on the right side at the amputation stump and
was treated with antibiotics, but was also noted to have ulcers 
of the left toes with erythema of the left lower extremity.  He 
underwent angiogram which showed patent bilateral iliac systems 
and a patent left common femoral
artery, profunda and SFA, as well as a totally calcified and 
diffusely diseased but patent left popliteal artery.  The 
anterior tibial and posterior tibial artery on the left side 
were occluded proximally and the peritoneal artery was also 
occluded proximally but reconstituted distally in the leg 
providing collateral branches that reconstituted the posterior 
tibial and dorsalis pedis in the foot.  Given these findings, we 
discussed the risks and benefits of the
procedure with the patient and decided to proceed with distal 
bypass.

 
Past Medical History:
NSTEMI/CAD (s/p CABG), ischemic cardiomyopathy (EF 15% ___,
___ Cardiologist), PAD, DM2, chronic pain syndrome,
nocturia, peripheral neuropathy, lumbago, afib, CKD (baseline 
Cre
2.5), cardioembolic stroke (L hemiplegia, ___
Neurology), L atrial appendage clot on coumadin depression,
ventricular tachycardia, rhabdomyolysis

PSH: 
5V CABG ___
R pop-DP bypass, ___ toe amputation ___ (___ 
___, Vascular surgeon Dr ___ hematoma evacuation ___ (___)
bypass graft explantation
tonsillectomy
Debridement ankle infection ___
Revision right ankle ligament reconstruction with Achilles 
tendon
allograft ___

 
Social History:
___
Family History:
CAD, DM, stroke

 
Physical Exam:
Discharge Physical Exam
VS:  98.8  96/51  77  19  95% RA
Gen: A&Ox3, NAD, Pleasant, comfortable
HEENT: PERRLA, normal oral mucosa
Heart: irregularly irregular
Lungs: No resp distress, no rhales, rhonchi or wheezes
Abd: soft, non-distended, bowel sounds present
Extremities: Right BKA. Incision well coapted to left leg with 
staples intact. There is some ecchymosis noted to the medial 
left leg along the incision. Minimal tenderness to palpation. No 
drainage from the incison
Pulses: R p/d/BKA   L p/d/-/palp graft

 
Pertinent Results:
___ 09:27PM BLOOD WBC-5.0 RBC-4.32* Hgb-10.7* Hct-37.0* 
MCV-86 MCH-24.8* MCHC-28.9* RDW-20.6* RDWSD-63.4* Plt ___
___ 08:00AM BLOOD WBC-6.3 RBC-3.34* Hgb-8.2* Hct-28.4* 
MCV-85 MCH-24.6* MCHC-28.9* RDW-19.6* RDWSD-61.6* Plt ___
___ 05:29PM BLOOD PTT-65.3*
___ 06:15AM BLOOD ___ PTT-134.9* ___
___ 02:55PM BLOOD PTT-57.7*
___ 06:35AM BLOOD ___ PTT-74.2* ___
___ 09:27PM BLOOD Glucose-107* UreaN-35* Creat-2.5* Na-140 
K-4.7 Cl-98 HCO3-26 AnGap-21*
___ 06:15AM BLOOD Glucose-102* UreaN-26* Creat-2.3*# Na-134 
K-4.8 Cl-99 HCO3-25 AnGap-15
___ 09:27PM BLOOD Calcium-8.6 Phos-5.0* Mg-2.1
___ 06:15AM BLOOD Calcium-8.6 Phos-4.8* Mg-2.0
___ 09:18AM BLOOD HBsAg-Negative
___ 06:00AM BLOOD HBcAb-Negative HAV Ab-Negative IgM 
HBc-NEGATIVE IgM HAV-Negative
___ 06:35AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 04:40AM BLOOD HIV Ab-Negative
___ 09:18AM BLOOD HCV Ab-Negative
___ 06:35AM BLOOD HCV Ab-Negative
___ 11:32PM BLOOD Type-ART pO2-204* pCO2-42 pH-7.40 
calTCO2-27 Base XS-1 Intubat-INTUBATED
___ 11:32PM BLOOD Glucose-83 Lactate-1.0 Na-138 K-4.0 
Cl-105
___ 11:32PM BLOOD Hgb-11.3* calcHCT-34
___ 11:32PM BLOOD freeCa-1.08*
 
Brief Hospital Course:
Patient was admitted the night before surgery for pre-operative 
clearance. Prior to surgery the cardiology and renal team were 
consulted and patient was cleared for surgery. Prior to surgery 
patient received hemodialysis. Patient underwent a Left below 
knee popliteal to posterior tibial artery bypass with saphenous 
graft. Patient tolerated the procedure well without 
complication. Immediately post operatively patient was in stable 
condition with pain well controlled. Patient was placed on 
standard bypass pathway. Patient continued to be followed by 
renal for dialysis and there recommendations for medications 
were followed. Cardiology highly recommended outpatient follow 
up with a cardiologist. Post operatively and for the remainder 
of the admission, the patient remained stable and lab work was 
WNL. Patient continued to receive his dialysis at his normal 
schedule. Patient worked with physical therapy who recommended 
that he go home with home services of physical therapy and 
nursing.
Patient continued to progress with his post operative course 
without complications. Patient was able to tolerate a normal 
diet. Patient was found to be stable for discharge.

OPERATIVE REPORT:
==================

Surgeon:  ___, ___

RESIDENT:  ___.

PREOPERATIVE DIAGNOSIS:  Nonhealing ulcers to the left toes.

POSTOPERATIVE DIAGNOSIS:  Nonhealing ulcers to the left toes.

PROCEDURES:
1. Left below-knee popliteal to posterior tibial bypass
    with non-reverse saphenous vein graft.
2. Angioscopy vein inspection valve lysis.

INDICATIONS FOR PROCEDURE:  This is a ___ gentleman
with a history of diabetes, end-stage renal disease, on
dialysis and ischemic cardiomyopathy with an EF of 10% to
15%.  He has a longstanding history of peripheral vascular
disease.  He previously underwent a right-sided popliteal DP
bypass which subsequently failed and resulted in a right
below-knee amputation.  He recently presented for wound
complications on the right side at the amputation stump and
was treated with antibiotics, but was also noted to have
ulcers of the left toes with erythema of the left lower
extremity.  He underwent angiogram which showed patent
bilateral iliac systems and a patent left common femoral
artery, profunda and SFA, as well as a totally calcified and
diffusely diseased but patent left popliteal artery.  The
anterior tibial and posterior tibial artery on the left side
were occluded proximally and the peritoneal artery was also
occluded proximally but reconstituted distally in the leg
providing collateral branches that reconstituted the
posterior tibial and dorsalis pedis in the foot.  Given these
findings, we discussed the risks and benefits of the
procedure with the patient and decided to proceed with distal
bypass.

DESCRIPTION OF PROCEDURE:  After informed consent was
obtained the patient was brought to the operating room, and a
check-in was held to confirm proper patient identification,
side and procedure. All members of the operating room team
agreed.  The patient was then positioned supine on the
operating table.  General anesthesia was induced.
Preoperative antibiotics were administered.  The left lower
extremity was prepped and draped in the usual sterile fashion
and after a time-out was held we made an incision just over
his posterior tibial artery at the level of the malleolus.
We dissected down and gained proximal and distal control of
this vessel and were pleased as it was rather soft and did
not appear to have a significant amount of calcification.  We
then turned our attention to our proximal target which would
be the below-knee popliteal.  We took a medial
infrageniculate approach and made an incision with the knee
flexed at 30 degrees.  Our incision was created about 1 cm
behind the posterior border of the tibia and took great care
not to injure the greater saphenous vein.  We incised the
crural fascia posterior to the tibia and extended this
proximally to the level of the semitendinosus tendon.  The
underlying medial head of the gastrocnemius muscle was
retracted posteriorly exposing the neurovascular bundle at
the proximal incision.  We readily identified the popliteal
vein as we entered the neurovascular sheath and we elevated
the artery above the vein into the incision and dissected
this out carefully.  We gained proximal and distal control of
this vessel using vessel loops.  We then began harvesting the
greater saphenous vein on the ipsilateral side.  We began
during this by creating an incision in the left groin.  We
readily identified the greater saphenous vein.  We then
followed this distally incising sharply with a knife along
its course and dissecting using a right angle.  Once we felt
that we had adequate length of vein we began dissecting this
out circumferentially from the surrounding soft tissues.  We
used a combination of clips and 0 silks to ligated its
branches and used a ___ Prolene figure-of-eight suture to
repair the vein in one position where we had evulsed the
branch.  Once were satisfied that we had adequate length we
ligated the vein proximally and distally and flushed this
with heparinized saline we then prepared to make our proximal
anastomosis using Potts scissors.  We tailored our vein and
created our anastomosis using parachute technique in a heel-
to-toe fashion.  This was uncomplicated and at this point, we
released our proximal vessel loop and flushed the graft.
There appeared to be good hemostasis though there was an area
leaking from the toe which we oversewed with Prolene suture.
Using railroad technique we then brought our graft distally
through our previously created tunnel.  In a similar fashion
we created our anastomosis using ___ running Prolene suture
in parachute technique and heel-to-toe fashion.  Once we were
satisfied with our anastomosis we released our vessel loops
and had an excellent graft pulse.  We confirmed this with the
Doppler as well.  We then gained hemostasis and then began
closing the proximal and distal target sites using Vicryl
suture.  We closed the skin incisions with staples.  Overall
the patient tolerated the procedure well.  There were no
complications at the end of the case.  The patient had an
excellent graft pulse at the end of the operation.

BACK TABLE ANGIOSCOPY:  After the saphenous vein was
harvested we then brought in to the back table for angioscopy
and valve lysis.  Using the angioscope we inspected the vein.
There did not appear to be any defects or significant
strictures.  The valves were adequately lysed without
perforation.  After this was completed the graft was brought
back into the field for anastomosis.

Dr. ___ was present throughout the operation in
compliance with CMS regulations.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Furosemide 80 mg PO DAILY 
3. Gabapentin 300 mg PO BID 
4. Lisinopril 2.5 mg PO DAILY 
5. OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - Severe 
6. Sertraline 50 mg PO DAILY 
7. Apixaban 5 mg PO BID 
8. glimepiride 1 mg oral DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Minocycline 100 mg PO Q12H 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY  
2.  Warfarin 10 mg PO DAILY16 Duration: 1 Dose  
3.  Gabapentin 100 mg PO TID  
4.  Atorvastatin 80 mg PO QPM  
5.  Furosemide 80 mg PO DAILY  
6.  glimepiride 1 mg oral DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Minocycline 100 mg PO Q12H 
RX *minocycline 100 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*14 Capsule Refills:*0 
9.  OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - Severe 

RX *oxycodone 20 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*12 Tablet Refills:*0 
10.  Sertraline 50 mg PO DAILY  
11. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you follow up with your dialysis 
team

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Nonhealing ulcers to the left toes.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

DISCHARGE INSTRUCTIONS TEMPLATES – may need edits where 
appropriate to fit specific patients
Dear Mr. ___,

You were admitted to ___ and 
underwent a popliteal to posterior tibial artery bypass . You 
have now recovered from surgery and are ready to be discharged. 
Please follow the instructions below to continue your recovery:

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
• Take aspirin as instructed 
• Follow your discharge medication instructions

ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• Unless you were told not to bear any weight on operative foot: 

• You should get up every day, get dressed and walk
• You should gradually increase your activity
• You may up and down stairs, go outside and/or ride in a car
• Increase your activities as you can tolerate- do not do too 
much right away!
• No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
• You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
• Redness that extends away from your incision
• A sudden increase in pain that is not controlled with pain 
medication
• A sudden change in the ability to move or use your leg or the 
ability to feel your leg
• Temperature greater than 100.5F for 24 hours
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 

 
Followup Instructions:
___